US04962115
10 parts of cis-4-amino-5-chloro-N-[1-[3-(4-fluorophenoxy)propyl]-3-methoxy-4-piperidinyl]-2-methoxybenzamide were dissolved in 225 parts of hot trichloromethane. After cooling to room temperature, 3.6 parts of N,N-diethylethanamine were added. Then there was added dropwise a solution of 1.7 parts of acetyl chloride in 30 parts of trichloromethane:exothermic reaction. The whole was stirred and refluxed for 22 hours. After cooling to room temperature, 0.6 parts of acetyl chloride were added and stirring was continued overnight at reflux. Another 0.6 parts of acetyl chloride were added and stirring was continued overnight at reflux. After cooling again to room temperature, there were added successively 0.6 parts of acetyl chloride and a small amount of N,N-dimethyl-4-pyridinamine. Stirring was continued for 22 hours at reflux. The reaction mixture was cooled to room temperature and washed with water. The organic phase was dried, filtered and evaporated. The residue was crystallized twice from acetonitrile, yielding 2.78 parts (25.5%) of cis-4-(acetylamino)-5-chloro-N-[1-[3-(4-fluorophenoxy)-propyl]-3-methoxy-4-piperidinyl]-2-methoxybenzamide; mp. 175.6° C. (compound 233).

reactant | cis-4-amino-5-chloro-N-[1-[3-(4-fluorophenoxy)propyl]-3-methoxy-4-piperidinyl]-2-methoxybenzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCOC2=CC=C(C=C2)F)OC)C=C1Cl)OC | C23H29ClFN3O4
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
catalyst | N,N-dimethyl-4-pyridinamine | CN(C1=CC=NC=C1)C | C7H10N2
product | cis-4-(acetylamino)-5-chloro-N-[1-[3-(4-fluorophenoxy)-propyl]-3-methoxy-4-piperidinyl]-2-methoxybenzamide | 25.5% | C(C)(=O)NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCOC2=CC=C(C=C2)F)OC)C=C1Cl)OC | C25H31ClFN3O5
